US04649213
In this example, 2.54 g of α-hydroxy-p-acetoxypropiophenone dimethylacetal was dissolved in a mixed solvent of 2 ml of N,N-dimethylformamide and 20 ml of toluene and the solution was cooled to -50° C. Then, 1.75 ml of sulfuryl chloride was added thereto. The mixture was stirred at the same temperature for 3 hours. After completion of the reaction, post-treatment was performed in a manner similar to Example 1 to obtain 1.78 g of methyl 2-(p-acetoxyphenyl)propionate (yield 80%). The product was heated in 20 ml of an aqueous 1N sodium hydroxide solution at 50° C. for 1 hour. Thereafter, the pH was adjusted to 3 with conc. hydrochloric acid. The solution was extracted with 50 ml of chloroform. The extract was concentrated under reduced pressure to obtain 1.2 g of 2-(p-hydroxyphenyl)propionic acid (yield 90%).

reactant | α-hydroxy-p-acetoxypropiophenone dimethylacetal | 2.54 g | COC(C(C)O)(C1=CC=C(C=C1)OC(C)=O)OC | C13H18O5
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | sulfuryl chloride | 1.75 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(p-acetoxyphenyl)propionate | 1.78 g, yield 80% | C(C)(=O)OC1=CC=C(C=C1)C(C(=O)OC)C | C12H14O4
